US07612067B2
B. 8-(1-Ethyl-propyl)-3-(5-iodo-3-methoxy-thiophen-2-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazine.
To a solution of 8-(1-ethyl-propyl)-3-(3-methoxy-thiophen-2-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.75 g, 2.28 mmol) and CH3CN (10 mL) is added NIS (0.54 g, 2.39 mmol). The solution is stirred overnight, concentrated, diluted with EtOAc (30 mL), washed with water (30 mL), sat. NH4Cl (30 mL), 20% (NaHSO3) (30 mL), brine (30 mL), dried over MgSO4, filtered and concentrated. The residue is purified by ISCO column chromatography (15%-20% EtOAc/hexane gradient) furnish the title compound (0.91 g, 2.00 mmol, 88%). 1H NMR (CDCl3) δ 0.85 (t, J=7.5 Hz, 6H), 1.71-1.89 (m, 4H), 2.46 (s, 3H), 2.52 (s, 3H), 3.25-3.35 (m, 1H), 3.83 (s, 3H), 6.64 (s, 1H), 7.12 (s, 1H). LC/MS (m/z): calcd. for C18H22IN3OS (M+H)+: 456.4; found: 456.0.

reactant | 8-(1-ethyl-propyl)-3-(3-methoxy-thiophen-2-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 2.28 mmol, 0.75 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC=CC2OC | C18H23N3OS
reactant | NIS | 2.39 mmol, 0.54 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 8-(1-Ethyl-propyl)-3-(5-iodo-3-methoxy-thiophen-2-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 2.00 mmol, 0.91 g, 88% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC(=CC2OC)I | C18H22IN3OS
